US05573726
N,N-Dimethyl-N'-dodecanoyl-N'-methyl-1,3-propylenediamine (Compound No. 15)
A mixture of 3.89 g. (0.0335 mol) of N,N,N'-trimethyl-1,3-propylenediamine and 4.33 g. (0.0335 mol) of N,N-diisopropylethylamine in 50 mL chloroform was added to 7.33 g. (0.0335 mol) of lauroyl chloride dropwise, on an icebath, and was then reacted for another two hours at room temperature. 75 mL of aqueous sodium bicarbonate was then added to this reaction mixture, and the chloroform layer was separated and washed with 125 mL aqueous sodium bicarbonate followed by 100 mL water. The chloroform layer was then dried (MgSO4) filtered and concentrated in vacuo.

reactant | N,N,N'-trimethyl-1,3-propylenediamine | 0.0335 mol | CN(CCCNC)C | C6H16N2
reactant | N,N-diisopropylethylamine | 0.0335 mol | C(C)(C)N(C(C)C)CC | C8H19N
reactant | lauroyl chloride | 0.0335 mol | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
reactant | sodium bicarbonate | 75 mL | C([O-])(O)=O.[Na+]
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | N,N-Dimethyl-N'-dodecanoyl-N'-methyl-1,3-propylenediamine | CN(CCCN(C)C(CCCCCCCCCCC)=O)C | C18H38N2O
